US06949562B2
In a sealed tube, 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (2.6 mmol) and tris(dimethylamino)methane (5.2 mmol) are combined and heated at 60° C. for 3 hours. After cooling to RT the volatile material is removed in vacuo. To the residue were added hydroxylamine hydrochloride (7.8 mmol) and 7 mL EtOH. The mixture is heated at 100° C. for 16 hours. The solvent is evaporated in vacuo and the residue is taken up in CH2Cl2 and washed two times with NaHCO3 (aq). The organic layer is dried over Na2SO4 and evaporated in vacuo and the residue chromatographed using 10% MeOH in CH2Cl2 as mobile phase to yield 4,5,6,7-tetrahydro-1-oxa-2,7-diaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester as a white solid (76%). 1H NMR (CDCl3) 1.19 (t, 3H), 1.95-2.07 (m, 2H), 2.78 (t, 2H), 2.95 (t, 2H), 4.38 (q, 2H), 7.26 (s, 1H), 8.03 (s, 1H), 8.77 (s, 1H).

reactant | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 2.6 mmol | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCCC2=O | C17H23NO5
reactant | tris(dimethylamino)methane | 5.2 mmol | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | hydroxylamine hydrochloride | 7.8 mmol | Cl.NO
solvent | EtOH | 7 mL | CCO | C2H6O
product | 4,5,6,7-tetrahydro-1-oxa-2,7-diaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 76% | C(C)OC(=O)C1=CNC=2CCCC3=C(C12)ON=C3 | C13H14N2O3
